US08119633B2
N—(2-Cyanoethyl)-4-methoxy-N,2,3,6-tetramethylbenzenesulfonamide
4-Methoxy-2,3,6-trimethylbenzenesulfonyl chloride (5.00 g, 20 mmol) was added at room temperature to a solution of 3-methylaminopropionitrile (1.50 g, 18.3 mmol) and triethylamine (5.50 g, 55 mmol) in THF (30 ml), and stirring was carried out for 16 h. Ethyl acetate (50 ml) was then added to the reaction mixture, and washing with sodium hydrogen carbonate solution (3×50 ml) was carried out. The organic phase was dried over sodium sulfate and concentrated in vacuo.

reactant | 4-Methoxy-2,3,6-trimethylbenzenesulfonyl chloride | 20 mmol, 5.00 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | 3-methylaminopropionitrile | 18.3 mmol, 1.50 g | CNCCC#N | C4H8N2
reactant | triethylamine | 55 mmol, 5.50 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N—(2-Cyanoethyl)-4-methoxy-N,2,3,6-tetramethylbenzenesulfonamide | C(#N)CCN(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)C | C14H20N2O3S
